US04814329
1-((5-benzyl-2-benzimidazolyl)thio)-2-propanone
0.46 g of sodium metal are dissolved in ethanol, then 2.4 g (10 mmoles) of 5-benzyl-benzimidazoline-2-thione are added to this solution under heating. Then 2.4 ml (30 mmoles) of chloroacetone are added dropwise. The reaction mixture is boiled for 1 hour, evaporated, then 40 ml benzene and 20 ml of aqueous 1N sodium hydroxide solution are added. The phases are separated, and the distillation residue of the benzene solution is crytallized with ether. Thereafter the title product thus obtained is recrystallized from isopropanol. M.p.: 102° C.

reactant | sodium | 0.46 g | [Na] | Na
reactant | 5-benzyl-benzimidazoline-2-thione | 10 mmoles, 2.4 g | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | chloroacetone | 30 mmoles, 2.4 ml | ClCC(C)=O | C3H5ClO
solvent | ethanol | C(C)O | C2H6O
product | 1-((5-benzyl-2-benzimidazolyl)thio)-2-propanone | C(C1=CC=CC=C1)C1=CC2=C(N=C(N2)SCC(C)=O)C=C1 | C17H16N2OS
